US04659718
A solution of butyl lithium in hexane (50 ml of 1.6M solution) was added slowly to a stirred mixture of 1,5-dimethyltetrazole (7.84 g) and dry tetrahydrofuran (170 ml) at 0°-5° under nitrogen. The mixture was stirred at 0°-5° for 0.5 hour and then methyl 4-fluoro-2-methylaminobenzoate (4.84 g) was added in portions at 0°-5°. The mixture was stirred at room temperature for 3 hours and then poured into water (500 ml). The resulting mixture was extracted with dichloromethane (5×60 ml). The extract was dried and evaporated to give an oil which partially solidified overnight. The solid was collected by filtration, washed with toluene and dried in vacuo to give the novel compound 1-(4-fluoro-2-methylaminophenyl)-2-(1-methyl-1H-tetrazol-5-yl)ethanone, m.p. 132°-134°.

reactant | butyl lithium | C(CCC)[Li]
reactant | 1,5-dimethyltetrazole | 7.84 g | CN1N=NN=C1C | C3H6N4
reactant | tetrahydrofuran | 170 ml | O1CCCC1 | C4H8O
reactant | methyl 4-fluoro-2-methylaminobenzoate | 4.84 g | FC1=CC(=C(C(=O)OC)C=C1)NC | C9H10FNO2
solvent | hexane | 1.6M, 50 ml | CCCCCC | C6H14
solvent | water | 500 ml | O | H2O
product | 1-(4-fluoro-2-methylaminophenyl)-2-(1-methyl-1H-tetrazol-5-yl)ethanone | FC1=CC(=C(C=C1)C(CC1=NN=NN1C)=O)NC | C11H12FN5O
